datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1C[CH:32]=[CH:31][C+:20]1[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1.C[C:74]1=[CH:73][CH:72]=[C:71]([CH:10]=[N+:11]([O-:12])[O-:62])[CH:83]=[CH:82]1>>C[C:74]1=[CH:73][CH:72]=[C:71]([CH:10]([N+:11](=[O:12])[O-:62])[C:20]2([C:41]3=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]3)CC[CH:32]=[CH:31]2)[CH:83]=[CH:82]1 10,11=10,20;12=11,12"
"C[N:10](C)[NH:61][CH:62]=[O:63].C[N:33](C)[C:22]([CH:21]=[CH2:20])=[O:23]>>C[N+:10](C)([CH2:20][CH:21]=[C:22]([O-:23])[N:33](C)C)[NH:61][CH:62]=[O:63] 10=20;20,21=21,22;22,23=23"
"C1C[C:22](=[O:23])[CH:21]=[CH:20]1.CC1C(C)[O:62][CH:11]([H:10])[O:12]1>>C1C[C:22]([O-:23])=[CH:21][CH:20]1[H:10].CC1C(C)[O:62][CH:11]=[O+:12]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:62]/[C:11](=[CH:10]/C1=CC=CC=C1)[O-:12].[CH:20](=[C:21]([C:22]#[N:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1>>CC[O:62][C:11]([CH:10](C1=CC=CC=C1)[CH:20]([C:21](=[C:22]=[N-:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=C[C:71]2=[C:72](C=C1)[NH:62][N:61]=[N:10]2.Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:36](Cl)=[C:35](Cl)[C:33](Cl)=[C:32]1Cl>>C1=C[C:71]2=[C:72](C=C1)[NH:62][N:61]=[N+:10]2[Cl:20].Cl[C:21]1=[C:22]([O-:23])[C:36](Cl)=[C:35](Cl)[C:33](Cl)=[C:32]1Cl 10=20;20,21=21,22;22,23=23"
"CC[C:11]1([H:10])[O:12]C(C)C(C)[O:62]1.Cl[C:20]1=[CH:21][C:22](=[O:23])[C:30](Cl)=[CH:31][C:32]1=[O:33]>>CC[C:11]1=[O+:12]C(C)C(C)[O:62]1.Cl[C:20]1([H:10])[CH:21]=[C:22]([O-:23])[C:30](Cl)=[CH:31][C:32]1=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[C:22](=[O:23])[CH:21]=[CH:20]1.C[Si](C)(C)[C:11](C)=[CH2:10]>>C[Si](C)(C)[C+:11](C)[CH2:10][CH:20]1CC[C:22]([O-:23])=[CH:21]1 10,11=10,20;20,21=21,22;22,23=23"
"C1C[O:33][C:22](=[O:23])[C:21]1=[CH2:20].[H][C:11]1([H:10])[CH:12]=[CH:13][N:14](CC2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O>>C1C[O:33][C:22]([O-:23])=[C:21]1[CH2:20][H:10].[H][C:11]1=[CH:12][CH:13]=[N+:14](CC2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CO[C:24](/[N:23]=[N:22]/[C:21](C)=[CH:20]/[C:31](=[O:32])[N:33](C)C)=[O:25].Cl[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([S-:10])=[CH:62]1>>CO[C:24](=[N:23][N:22]=[C:21](C)[CH:20]([S:10][C:61]1=[CH:62][C:63](Cl)=[CH:64][CH:73]=[CH:72]1)[C:31](=[O:32])[N:33](C)C)[O-:25] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:41]1=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]1)[C:22]2=[O:23].[H:10][BH3-:11]>>C1=CC2=C(C=C1)[C:32](=[O:33])[C:21]([CH:20]([H:10])[C:41]1=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]1)=[C:22]2[O-:23].[BH3:11] 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([S:61](/[CH:10]=[C:11](\[O-:12])[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)(=[O:62])=[O:72])C=C1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C:20]([CH:10]([C:11](=[O:12])[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[S:61](C2=CC=CC=C2)(=[O:62])=[O:72])([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1 10,11=10,20;12=11,12"
"CC1(C)C[C:11]([O-:12])=[N:10][C:61](=[O:62])C1.C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23]>>CC1(C)C[C:11](=[O:12])[N:10]([CH:20]([CH:21]=[C:22](C)[O-:23])[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)[C:61](=[O:62])C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[N+]2(C[C:21]3=[CH:20][C:31]4=[C:32](O[C:22]3=[O:23])[CH:33]=[CH:34][CH:35]=[CH:36]4)CCN1CC2.[H:10][CH:11]1[CH:12]=[CH:13][CH:14]=[CH:15][CH:16]=[CH:17]1>>C1C[N+]2(C[C:21]3=[C:22]([O-:23])O[C:32]4=[C:31]([CH:20]3[H:10])[CH:36]=[CH:35][CH:34]=[CH:33]4)CCN1CC2.[CH:11]1=[CH:12][CH:13]=[CH:14][CH:15]=[CH:16][CH+:17]1 10,11=10,20;12,13=11,12;14,15=13,14;16,17=15,16;20,21=21,22;22,23=23"
C1C[CH:32]=[CH:31][C+:20]1[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1.FC(F)(F)[C:64]1=[CH:63][CH:62]=[C:61]([S-:10])[CH:72]=[CH:73]1>>FC(F)(F)[C:64]1=[CH:63][CH:62]=[C:61]([S:10][C:20]2([C:41]3=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]3)CC[CH:32]=[CH:31]2)[CH:72]=[CH:73]1 10=20
"C1COC2(CC[C:20](=[O:21])CC2)O1.[O-:10][C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:76])[CH:73]=[CH:72]1>>C1COC2(CC[C:20]([O:10][C:61]3=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:76])[CH:73]=[CH:72]3)([O-:21])CC2)O1 10=20;20,21=21"
"C1C[C:20](=[O:21])CCO1.CC1=CC(C)=C([N+:63]2=[C:62](/[C:11](=[C:10](\C)C3=CC=CC=C3)[O-:12])[N:66](C3=C(C)C=C(C)C=C3C)[CH:65]=[CH:64]2)C(C)=C1>>CC1=CC(C)=C([N+:63]2=[C:62]([C:11]([C:10](C)(C3=CC=CC=C3)[C:20]3([O-:21])CCOCC3)=[O:12])[N:66](C3=C(C)C=C(C)C=C3C)[CH:65]=[CH:64]2)C(C)=C1 10,11=10,20;12=11,12;20,21=21"
"C[C:61]1=[N:62][C:72](C)=[CH:71][N-:10]1.[CH2:20]=[CH:21][C:22]#[N:23]>>C[C:61]1=[N:62][C:72](C)=[CH:71][N:10]1[CH2:20][CH:21]=[C:22]=[N-:23] 10=20;20,21=21,22;22,23=23"
